US07807274B2
There were mixed 16.5 g (0.040 mole) of N-(4′-iodobiphenylyl)acetanilide, 11.8 g (0.048 mole) of N-(4-biphenyl)aniline, 8.3 g (0.060 mole) of anhydrous potassium carbonate, 0.1 g (0.002 mole) of copper powder and 10 ml of n-dodecane, followed by reaction at 200 to 212° C. for 15 hours. The reaction product was extracted with 200 ml of toluene, and the insoluble matter was removed by filtration. Then, the filtrate was concentrated to obtain oily matter. The oily matter was dissolved in 60 ml of isoamyl alcohol, and 4 ml of water and 4.00 g (0.060 mole) of 85% potassium hydroxide were added, followed by hydrolysis at 130° C. After isoamyl alcohol was removed by steam distillation, extraction with 250 ml of toluene was performed, followed by washing with water, drying and concentration. The concentrate was purified by column chromatography (carrier: silica gel, eluate: toluene/n-hexanem1/2) to obtain 15.2 g (yield: 77.8%, HPLC purity: 97.0%) of N-(4-biphenylyl)-N,N′-diphenyl-4,4′-diaminobiphenyl. The melting point was 126.6 to 127.4° C.

reactant | N-(4′-iodobiphenylyl)acetanilide | 0.040 mole, 16.5 g | IC1=CC=C(C=C1)C1=C(C=CC=C1)N(C1=CC=CC=C1)C(C)=O | C20H16INO
reactant | potassium carbonate | 0.060 mole, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-dodecane | 10 ml | CCCCCCCCCCCC | C12H26
reactant | potassium hydroxide | 0.060 mole, 4.00 g | [OH-].[K+]
solvent | isoamyl alcohol | 60 ml | C(CC(C)C)O | C5H12O
catalyst | copper | 0.002 mole, 0.1 g | [Cu] | Cu
solvent | water | 4 ml | O | H2O
product | N-(4-biphenylyl)-N,N′-diphenyl-4,4′-diaminobiphenyl | 15.2 g, yield: 77.8% | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)NC1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H28N2
